US09210927B2
Preparation of Ethyl 2-bromo-4-iodobenzoate (AI46)
To a stirred solution of 4-iodo-2-bromobenzoic acid (5 g, 15.29 mmol) in ethyl alcohol (EtOH; 100 mL) was added sulfuric acid (H2SO4; 5 mL), and the reaction mixture was heated at 80° C. for 18 h. The reaction mixture was cooled to 25° C. and concentrated under reduced pressure. The residue was diluted with EtOAc (2×100 mL) and washed with H2O (100 mL). The combined EtOAc extracts were washed with brine, dried over Na2SO4 and concentrated under reduced pressure to afford the compound as a pale yellow solid (5 g, 92%): 1H NMR (400 MHz, DMSO-d6) δ 8.04 (d, J=1.2 Hz, 1H), 7.71 (d, J=7.6 Hz, 1H), 7.51 (d, J=8.4 Hz, 1H), 4.41 (q, J=7.2 Hz, 2H), 1.41 (t, J=7.2 Hz, 3H).

reactant | 4-iodo-2-bromobenzoic acid | 15.29 mmol, 5 g | IC1=CC(=C(C(=O)O)C=C1)Br | C7H4BrIO2
reactant | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethyl alcohol | 100 mL | C(C)O | C2H6O
product | Ethyl 2-bromo-4-iodobenzoate | 5 g, 92% | BrC1=C(C(=O)OCC)C=CC(=C1)I | C9H8BrIO2
